US08633212B2
To a stirred solution of 6-bromo-1-indanone (0.5330 g, 2.52 mmol) in dry THF (10 mL) was added NaH (0.3380 g, 60% in a mineral oil, 8.45 mmol) at 0° C. under nitrogen. After being stirred for 10 min, 4-iodobut-1-ene (1.3450 g, 7.39 mmol) was added and then the mixture was stirred at ambient temperature for 20 h. The reaction mixture was cooled to 0° C., quenched with 1 N HCl, extracted with ethyl acetate, and dried over Na2SO4. After the solvents were evaporated, the residue was purified by chromatography on silica gel eluted with hexanes/ethyl acetate to afford 0.1304 g of 6-bromo-2,2-di(but-3-en-1-yl)-2,3-dihydro-1H-inden-1-one. LC-MS tR=2.33 min in 3 min chromatography, m/z 319, 321 (MH+); 1H NMR (400 MHz, CDCl3) δ 7.84 (s, 1H), 7.67 (d, J=8 Hz, 1H), 7.33 (d, J=8 Hz, 1H), 5.76-5.66 (m, 2H), 4.94-4.87 (m, 4H), 2.98 (s, 2H), 1.98-1.63 (m, 8H); 13C NMR (100 MHz, CDCl3) δ 209.23, 151.43, 138.85, 137.85, 137.54, 127.94, 126.75, 121.55, 114.81, 52.87, 37.28, 36.58, 28.54.

reactant | 6-bromo-1-indanone | 2.52 mmol, 0.5330 g | BrC1=CC=C2CCC(C2=C1)=O | C9H7BrO
reactant | NaH | [H-].[Na+]
reactant | 4-iodobut-1-ene | 7.39 mmol, 1.3450 g | ICCC=C | C4H7I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 6-bromo-2,2-di(but-3-en-1-yl)-2,3-dihydro-1H-inden-1-one | 0.1304 g | BrC1=CC=C2CC(C(C2=C1)=O)(CCC=C)CCC=C | C17H19BrO
